US05962479
A. Butyl-(6-chloro-2-methyl-pyrimidin-4-yl)-ethylamine
A mixture of 2-methyl-4,6-dichloro-pyrimidine (1.63 g, 10 mmol) In 5 ml of acetonitrile was treated with N-butyl-ethyl-amine (2.000 g, 20 mmol) and heated at reflux for 0.5 hours. The mixture was cooled, diluted with water and extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated to give 2.271 g (100%) of title compound as a light-brown oil. 1H NMR (CDCl3) δ0.93 (t, 3H), 1.13 (t, 3H), 1.22-1.36 (m, 2H), 1.45-1.6 (m, 2H), 2.43 (s, 3H), 3.25-3.60 (m, 4H), 6.15 (s, 1H) ppm.

reactant | 2-methyl-4,6-dichloro-pyrimidine | 10 mmol, 1.63 g | CC1=NC(=CC(=N1)Cl)Cl | C5H4Cl2N2
reactant | N-butyl-ethyl-amine | 20 mmol, 2.000 g | C(CCC)NCC | C6H15N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | Butyl-(6-chloro-2-methyl-pyrimidin-4-yl)-ethylamine | 2.271 g, 100% | C(CCC)N(CC)C1=NC(=NC(=C1)Cl)C | C11H18ClN3
